US07214673B2
2-Phenethyl-piperazine
Add 2-phenethyl-1,4-bis-(toluene-4-sulfonyl)-piperazine (100 mg, 0.2 mmol) in THF (2 mL) to a cooled (−78° C.) suspension of metallic Na (36.8 mg, 1.6 mmol) and naphthalene (230.4 mg, 1.8 mmol) in fresh distilled THF(4 mL) was under nitrogen and stir at −78° C. After 1 hour, TLC indicated the reaction is complete. Hydrolyze the reaction with brine (10 mL) and extract with CH2Cl2 (3×10 mL). Combine the organic layers and dry over Na2SO4 and evaporate. Pass the resulting residue through a SCX column to obtain the title compound as a solid: mass spectrum (electrospray): (m/z)=191.2 (M+1); 1H NMR (CDCl3): δ7.30–7.25 (m, 2H), 7.20–7.15 (m, 3H), 3.00–2.61 (m, 8H), 2.40 (t, 1H, J=11.7 Hz), 1.70 (br, 2H), 1.67–1.60 (m, 2H).

reactant | 2-phenethyl-1,4-bis-(toluene-4-sulfonyl)-piperazine | 0.2 mmol, 100 mg | C(CC1=CC=CC=C1)C1N(CCN(C1)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C | C26H30N2O4S2
reactant | naphthalene | 1.8 mmol, 230.4 mg | C1=CC=CC2=CC=CC=C12 | C10H8
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-Phenethyl-piperazine | C(CC1=CC=CC=C1)C1NCCNC1 | C12H18N2
